US05077380
B. Synthesis of 4-Nitro-4'-hydroxystilbene
A portion (36.75 grams) of α-p-nitrophenyl-p-acetoxycinnamic acid from A. above, ethanol (300 mL) and concentrated hydrochloric acid (300 mL) are added to a reactor equipped with a reflux condenser and stirred under a nitrogen atmosphere. Heating commenced and a reflux is achieved at 93° C. Refluxing continued over the next 262 minutes at which time the temperature has increased to 95° C. At this time, the contents of the reactor are poured into deionized water (one liter) and the resultant precipitate recovered by filtration. The wet filter cake is washed with two portions (500 mL) of deionized water then dissolved in stirred ethanol (750 mL) maintained at 82° C. The resultant solution is maintained at 4° C. for 15 hours. The precipitate is recovered by filtration and dried at 75° C. under a vacuum of 2 mm Hg to a constant weight of 22.70 grams of light orange colored crystalline needles. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of a portion of the product revealed the presence of the expected hydroxyl group O--H stretching centered at 3422 cm-1 (broad), conjugated nitro group absorbances at 1516 and 1337 (1317 shoulder) cm-1 (sharp) and the ethylene C--H out-of-plane deformation at 972 cm-1.

reactant | α-p-nitrophenyl-p-acetoxycinnamic acid | 36.75 grams | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)=CC1=CC=C(C=C1)OC(C)=O | C17H13NO6
reactant | ethanol | 300 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 300 mL | Cl | ClH
solvent | water | one liter | O | H2O
product | 4-Nitro-4'-hydroxystilbene | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=CC=C(C=C1)O | C14H11NO3
